Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
All allergies / adverse drug reactions previously recorded have 
been deleted
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Right heart catheterization, coronary angiography, aortic 
valvuloplasty IABP and Impella placement ___
 
History of Present Illness:
___ is an ___ yo man with H/O left ventricular 
systolic heart failure (LVEF 23%), ESRD on HD MWF via left lower 
forearm AV fistula, and severe aortic stenosis (peak/mean 
gradient 55/31, ___ 0.9) who presents worsening shortness of 
breath.

Patient went to his dialysis session on the day of admission and 
underwent a full treatment. However, the patient's family was 
called by the dialysis ___ altered mental status. They 
reported he was somewhat more confused than usual and 
complaining of shortness of breath and abdominal pain over the 
past several weeks.

In the ED, initial VS were: Temperature 96.4, heart rate 55, 
blood pressure 111/64, respiratory rate 20, SaO2 95% on room 
air. Exam notable for crackles in lungs. EKG showed sinus 
bradycardia at 56 bpm with mild AV delay and left bundle branch 
block with expected secondary repolarization abnormalities. Labs 
included NT-Pro-BNP greater than assay, troponin-T 0.19, CK-MB 
2, AST 60, ALT 33, white blood cell count 7.9, hemoglobin 12.9, 
platelets 165. CT head showed no definite evidence of acute 
intracranial process. Areas of hypodensity in the posterior 
right parietal lobe which were new since the prior study from 
___, but which otherwise do not appear acute. Finding suggests 
interval infarct since the prior study. Patient received 
ondansetron. Transfer VS were: Temperature 97.8, heart rate 60, 
blood pressure 127/89, respiratory rate 18, SaO2 95% on room 
air.

On arrival to the cardiology ward, patient reported that he was 
feeling well. Patient was joined at the bedside by his wife and 
daughter who reported that he has been getting gradually more 
short of breath over the last couple weeks. He was quite 
confused earlier the day of admission but seemed to be a bit 
more reoriented at this point. Patient was able to ambulate at 
home with a walker around his home at baseline.
 
Past Medical History:
-Aortic stenosis
-Type 2 diabetes mellitus
-Hypertension
-ESRD, on hemodialysis
-Chronic LV systolic and diastolic heart failure; (LVEF ___, 
___
-Prostate cancer
-Low Back Pain
-Gout
 
Social History:
___
Family History:
Patient was raised mostly by grandmother; ___ uncertain 
otherwise.
 
Physical Exam:
On admission
GENERAL: Elderly black man in NAD, oriented to person, hospital, 
but not oriented to month or president of the ___
VS: Temperature 97.9, blood pressure 113/66, heart rate 58, 
respiration rate 18, O2 sat 90% on room air
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
mucous membranes moist
NECK: JVP at 10 cm of 45°
HEART: RRR, 3 out of 6 late peaking systolic murmur with weak 
and delayed carotid upstroke. Paradoxical splitting of S2 
consistent with left bundle branch block   
LUNGS: Crackles at the bases bilaterally
ABDOMEN: not distended, non-tender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: Left AV fistula with good thrill, cool distal 
extremities with no edema
PULSES: Distal pulses are nonpalpable
NEURO: A&Ox3, moving all 4 extremities with purpose
 
Pertinent Results:
___ 11:42AM   WBC-7.9 RBC-4.11* HGB-12.9* HCT-37.4* MCV-91 
MCH-31.4 MCHC-34.5 RDW-17.5* RDWSD-57.6*
___ 11:42AM   NEUTS-62.6 ___ MONOS-14.9* EOS-1.7 
BASOS-0.4 IM ___ AbsNeut-4.92 AbsLymp-1.58 AbsMono-1.17* 
AbsEos-0.13 AbsBaso-0.03
___ 11:42AM   PLT COUNT-165
___ 12:03PM   ___ PTT-28.9 ___

___ 11:42AM   GLUCOSE-122* UREA N-19 CREAT-3.1*# SODIUM-135 
POTASSIUM-5.0 CHLORIDE-90* TOTAL CO2-24 ANION GAP-21*
___ 11:42AM   ALT(SGPT)-33 AST(SGOT)-60* CK(CPK)-173 ALK 
PHOS-70 TOT BILI-0.7
___ 11:42AM   ALBUMIN-4.1 CALCIUM-8.3* PHOSPHATE-1.7* 
MAGNESIUM-1.9

___ 11:51AM   ___ PO2-45* PCO2-41 PH-7.43 TOTAL CO2-28 
BASE XS-2 INTUBATED-NOT INTUBA COMMENTS-GREEN TOP
___ 11:51AM   LACTATE-1.8
___ 11:51AM   O2 SAT-76

___ 11:42AM   CK-MB-2 cTropnT-0.19* proBNP->70000*
___ 05:15PM   cTropnT-0.16*

CT HEAD WITHOUT CONTRAST ___
1. No definite evidence of acute intracranial process. Areas of 
hypodensity in the posterior right parietal lobe which are new 
since the prior study from ___, but which otherwise do not 
appear acute. Finding suggests interval infarct since the prior 
study. MRI is more sensitive in detecting acute ischemia.
2. Interval evolution of chronic left frontal infarct as 
compared the prior study.
3. Age-related involutional changes including prominent 
bifrontal extra-axial CSF spaces.
4. Near complete opacification of the left sphenoid sinus as 
described above.

CXR ___
There are slightly low lung volumes. No focal consolidation is 
seen. There is no pleural effusion or pneumothorax. The cardiac 
silhouette is mildly enlarged. Mediastinal contours are similar. 
Osseous sclerosis is seen along the spine, better assessed on 
prior CT.
IMPRESSION: No definite focal consolidation to suggest 
pneumonia.

ELBOW X-RAY ___
No acute fractures or dislocations are seen. There is again seen 
moderate to severe degenerative changes with prominent spurs 
about the radial head and neck, stable since ___. Spurring of 
the coronoid process is also seen. There is a moderate joint 
effusion; however, given the degenerative changes, this is 
likely related to the osteoarthritis. Of note, a similar size 
joint fusion was seen on the prior study. Mineralization is 
normal.If there is high concern for nondisplaced fracture, MRI 
is recommended.

Transesophageal Echocardiogram ___
  Patient undergoing heart cath plus balloon AV valvuloplasty. 
Converted to GA secondary to patient cooperation, uneventful. 
After ___ecame severely hyoptensive and TEE placed.
  The right ventricular cavity is moderately dilated with severe 
global free wall hypokinesis. Apex >> worse than base. The 
aortic valve leaflets are severely thickened/deformed. There is 
severe aortic valve stenosis (valve area <1.0cm2). Low gradient 
peak ___ Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. Moderate to severe [3+] tricuspid regurgitation is seen. 
  There is an IABP catheter in the descending thoracic aorta. 
There is large amount of spontaneous echo contrast in the LA. 
___ not well visualized. 
  Post valvuolplasty SV essentially unchanged. Mild AI. Impella 
placed through AV. RV function became worse to standstill.

Cardiac Catheterization ___
Cardiac catheterization via L femoral artery. Results 
demonstrated...
Coronary Anatomy
Dominance: Right
  LM- 20%
  LAD- long 40% mid, no other significant stenoses
  LCx- 50% long OM1, otherwise only mild luminal irregularities
  RCA- 40% long mid, otherwise minimal disease
Interventional Details
  After the patient was prepped and draped, it was apparent that 
he would be unable to cooperate with planned cardiac 
catheterization procedure. Decision was therefore made by 
anesthesiology to intubate patient and provide general 
anesthesia to allow us to proceed with the procedure. Initially 
after intubation, the patient maintained hemodynamic stability. 
RHC performed via RFV and demonstrated:
  RA 23 RV ___ PA ___ PCW 20 
  Cardiac Output 3.4 L/min Cardiac Index 1.9 L/min/m2
  At this point, patient became progressively hypotensive 
requiring escalating doses of phenylephrine, epinephrine, and 
levophed. We therefore placed 40 cc IABP via RFA and initiated 
counterpulsation at 1:1. Coronary angiography was performed and 
demonstrated mild 3 vessel CAD without critical obstructive 
lesions. We therefore decided to perform BAV in an attempt to 
unload LV and also RV. Of note, TEE was performed at this time 
which demonstrated LVEF 20% with severe RV dilation and 
hypokinesis (virtual akinesis).
  Arterial access obtained via LFA using micropuncture technique 
and placed ___ arterial sheath. After deployment of dual Perclose 
devices, the sheath was upsized to a ___ sheath for 
valvuloplasty. The aortic valve was crossed in a retrograde 
fashion using a ___ JR4 catheter and a straight wire. We then 
exchanged for a ___ dual lumen pigtail catheter and LHC was 
performed. Next we exchanged for a .035 Confida wire and used 
this to advance a 22 mm x 4.5 cm True balloon retrograde across 
the aortic valve. BAV x 2 was performed without the need for 
ventricular pacing. Following this, we removed the True balloon 
and LHC was again performed using the dual lumen pigtail 
catheter. However, the patient's critical hemodynamic status 
failed to improve. 
  We therefore exchanged the LFA ___ F sheath for the ___ Impella 
sheath, and placed an Impella CP device via this sheath. 
However, even with Impella placement (1.9 L of flow) and 
continued IABP support, the patient continued to deteriorate, 
mainly due to refractory RV failure. Over the next ___ minutes of 
observation, the patient became progressively hypotensive with 
an agonal rhythm. After consultation with the patient's family 
(wife and daughter), we felt that no further heroic measures 
were indicated or desired, and the patient expired at 14:58. 
IMPRESSION:
1. Cardiogenic shock (present at beginning of procedure) due to 
combined RV and LV systolic dysfunction
2. Severe aortic stenosis
3. Successful BAV using a 22 mm x 4.5 cm True Balloon
4. Successful IABP insertion
5. Successful insertion of Impella CP device
6. Intraprocedural death due to progressive RV dysfunction
 
Brief Hospital Course:
___ was an ___ yo man with H/O left ventricular 
systolic heart failure (LVEF 23%), ESRD on HD MWF via left lower 
forearm AV fistula, and severe aortic stenosis (peak/mean 
gradient 55/31, ___ 0.9) who presented with worsening shortness 
of breath. This was thought likely multifactorial, but mostly 
due to his severe aortic stenosis and poor ejection fraction. 
Patient's echocardiogram confirmed low flow, low gradient aortic 
stenosis. He was medically managed with ASA, statin, metoprolol, 
and dialysis for fluid removal. He had previously been 
undergoing workup for TAVR as an outpatient. There was, however, 
concern that the patient might not be able to tolerate the 
procedures leading to TAVR or benefit from TAVR due to advanced 
dementia, limited functional capacity, and other comorbidities 
including ESRD. Geriatrics and palliative care were consulted. 
Extensive family meetings were held to discuss conservative vs. 
interventional treatment options. Family was agreeable to 
proceeding with palliative aortic valve balloon valvuloplasty 
with the hope that he may have some improvement in 
breathing/quality of life and assess candidacy for TAVR later. 
Unfortunately, during his cardiac catheterization with coronary 
angiography prior to planned valvuloplasty on ___, the patient 
became progressively hypotensive requiring escalating doses of 
vasopressor medications, intra-aortic balloon pump, and 
ultimately Impella device despite aortic valvuloplasty and only 
mild CAD found. The patient continued to deteriorate, mainly due 
to refractory RV failure, with progressive hypotension. After 
consultation with the patient's family (wife and daughter), it 
was felt that no further interventions were indicated or 
desired, with a focus on comfort measures. The patient expired 
at 14:58.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. B complex-vitamin C-folic acid ___ mg oral DAILY 
3. Carvedilol 25 mg PO BID 
4. Cinacalcet 30 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Pravastatin 40 mg PO QPM 
7. Ranitidine 150 mg PO BID:PRN stomach pain 
8. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild
 
Discharge Medications:
None
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Aortic stenosis, severe
-Coronary artery disease
-Acute on chronic biventricular systolic and diastolic heart 
failure
-Hypertension
-Type 2 diabetes mellitus
-End stage renal disease on hemodialysis
-Dementia
-Gout
 
Discharge Condition:
Expired
 
Discharge Instructions:
None (expired)
 
Followup Instructions:
___